US08236976B2
Preparation of 1-(3-tert-Butyl-oxiranyl)-propan-1-ol (26)
The product was prepared by General procedure T using 196 mg (1.1 mmol) Cy2BH, 137 μL (1.1 mmol) 3,3-dimethyl-1-butyne, 1.1 mL (2.1 mmol, 2.0 M in hexanes) Et2Zn, 9.6 mg (0.04 mmol) (−)-MIB, 72 μL (1.0 mmol) propanal, 200 μL (0.20 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 42 μL (0.20 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 69% yield (109 mg, 0.69 mmol). threo-diastereomer: Colorless oil. [α]D20=+80.3 (c=0.79, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.90 (s, 9H), 0.96 (t, 3H, J=7.5 Hz), 1.56-1.62 (m, 2H), 1.84 (br d, 1H, J=4.6 Hz), 2.67 (d, 1H, J=2.2 Hz), 2.80 (dd, 1H, J=5.1, 1.8 Hz), and 3.32 (m, 1H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 22.6, 25.8, 27.4, 31.6, 58.5, 64.7, and 73.2 ppm; IR (neat): 3401, 2955, 2851, 1728, 1602, 1578, 1462, 1370, 1367, and 1273 cm−1; LRMS-CI m/z 141.08 [(M−OH)+; calcd for C9H17O: 141.13]. erythro-diastereomer: Colorless oil. [α]D20=28.0 (c=0.79, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.90 (s, 9H), 0.99 (t, 3H, J=7.5 Hz), 1.47-1.60 (m, 2H), 1.79 (br s, 1H), 2.78 (d, 1H, J=2.2 Hz), 2.85 (t, 1H, J=2.7 Hz), and 3.72 (m, 1H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 22.6, 25.8, 26.6, 31.6, 57.5, 62.4, and 69.6 ppm; IR (neat): 3366, 2955, 2922, 2849, 2367, 2332, 1725, 1596, 1455, and 1373 cm−1; LRMS-CI m/z 141.08 [(M−OH)+; calcd for C9H17O: 141.13].

reactant | Cy2BH | 1.1 mmol, 196 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 1.1 mmol, 137 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 2.1 mmol, 2.0 M, 1.1 mL | [Zn](CC)CC
reactant | propanal | 1.0 mmol, 72 μL | C(CC)=O | C3H6O
reactant | (+)-DIPT | 0.20 mmol, 42 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.20 mmol, 1.0 M, 200 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-(3-tert-Butyl-oxiranyl)-propan-1-ol | 69% yield | C(C)(C)(C)C1C(O1)C(CC)O | C9H18O2
